US06734301B2
A solution of 4.3 g of 2-(2-methoxy-6-nitrophenyl)-1-ethanol acetone (117 mL) is slowly treated with a solution of Jones Reagent (31 mL). The volatiles are removed under reduced pressure, diluted with 5M sodium hydroxide, cooled to 0° C., and treated slowly with concentrated H2SO4. This solution is extracted four times with ethyl acetate with the combine organics washed with brine, dried over NaSO4, filtered, and concentrated. The crude material is purified by LC (10% MeOH/CH2Cl2) to give 3.5 g of 2-(2-methoxy-6-nitrophenyl)acetic acid as a yellow/gold solid. 1H NMR (300 MHz, DMSO-d6) δ3.84 (s, 3H), 3.87 (s, 2H), 7.42 (d, J=7 Hz, 1H), 7.52 (t, J=8 Hz, 1H), 7.59 (dd, J=1, 8 Hz, 1H); 13C NMR (75 MHz, CDCl3) δ157.9, 150.7, 127.5, 120.1, 115.3, 114.8, 56.4, 11.1; IR (drift) 3020, 2983, 2945, 2888, 2840, 1710, 1531, 1471, 1434, 1353, 1274, 1256, 1229, 1058, 799 cm−1. HRMS (FAB) calculated for C9H9NO5+H1 212.0559, found 212.0555.

reactant | 2-(2-methoxy-6-nitrophenyl)-1-ethanol acetone | 117 mL, 4.3 g | CC(=O)C.COC1=C(C(=CC=C1)[N+](=O)[O-])CCO
reactant | Jones Reagent | 31 mL | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
product | 2-(2-methoxy-6-nitrophenyl)acetic acid | 3.5 g | COC1=C(C(=CC=C1)[N+](=O)[O-])CC(=O)O | C9H9NO5
